US07713994B2
6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione
6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (1.24 g, 4.4 mmol) and PdCl2(PPh3)2 (200 mg, 0.28 mmol) and 2-furyltributyltin (2 g, 5.6 mmol) in N,N-dimethylformamide (20 mL) is degassed and heated at 100° C. for 1 hour. Upon cooling to room temperature, the product precipitated out. After filtration, the precipitate is washed with Et2O and dried to provide the desired product (800 mg, 68%). MS (ESI): 270.1 (M+1)+1.

reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 4.4 mmol, 1.24 g | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 2-furyltributyltin | 5.6 mmol, 2 g | O1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.28 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione | 800 mg, 68% | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C15H11NO4
